US04736031
To a mixture of 2.5 g of methyl 2-(3-chloropropyl)-3-oxo-3,4-dihydro-2H-1,5-benzodioxepin-2-carboxylate obtained in Reference Example 4 in 20 ml of methanol, sodium borohydride is added in small portions with stirring and under ice-cooling. After completion of the reaction, the reaction mixture is treated with water and extracted with ethyl acetate. The organic layer is washed with water, dried, and evaporated under reduced pressure. The residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=3:1→1:1). From the first fraction eluted, 1.75 g of methyl 2-(3-chloropropyl)-3-hydroxy-3,4-dihydro-2H-1,5-benzodioxepin-2-carboxylate (A isomer) is obtained as a colorless oil. Mass spectrum m/e: 300, 302 (M+). IR νmaxneat cm-1 : 3500(OH), 1755, 1735. NMR (CDCl3) δ: 3.21 (4H, multiplet), 3.3 (2H, triplet, ClCH2 --), 3.70 (3H, singlet, OCH3), 4.2 (3H, multiplet).

reactant | methyl 2-(3-chloropropyl)-3-oxo-3,4-dihydro-2H-1,5-benzodioxepin-2-carboxylate | 2.5 g | ClCCCC1(C(COC2=C(O1)C=CC=C2)=O)C(=O)OC | C14H15ClO5
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | methyl 2-(3-chloropropyl)-3-hydroxy-3,4-dihydro-2H-1,5-benzodioxepin-2-carboxylate | 1.75 g | ClCCCC1(C(COC2=C(O1)C=CC=C2)O)C(=O)OC | C14H17ClO5
